US07572820B2
1-({5-[2-(Methylthio)-3-pyridinyl]-1,2,4-oxadiazol-3-yl}methyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 23 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-[3-(chloromethyl)-1,2,4-oxadiazol-5-yl]-2-(methylthio)pyridine: MS (ES) m/z 416 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | 3-[3-(chloromethyl)-1,2,4-oxadiazol-5-yl]-2-(methylthio)pyridine | ClCC1=NOC(=N1)C=1C(=NC=CC1)SC | C9H8ClN3OS
product | 1-({5-[2-(Methylthio)-3-pyridinyl]-1,2,4-oxadiazol-3-yl}methyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CSC1=NC=CC=C1C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C19H12F3N5OS
